US08003692B2
2-Methyl-3-(1-methyl-1H-pyrazol-4-yl)-cyclopent-2-enone.
Synthesized from 3-bromo-2-methylcyclopent-2-enone and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography using gradient elution (0 to 100% ethyl acetate/hexanes) and further recrystallization yielded the product (21 mg, 16%) as a white solid. 1H NMR (CDCl3, 300 MHz): δ 7.80 (s, 1H), 7.70 (s, 1H), 2.84-2.80 (m, 2H), 2.52-2.48 (m, 2H), 1.95 (t, J=2.1 Hz, 3H). LCMS (ESI): mass calcd for (C10H12N2O) m/z 176.09; measured [M+H]+: m/z 177.09.

reactant | 3-bromo-2-methylcyclopent-2-enone | BrC1=C(C(CC1)=O)C | C6H7BrO
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
product | 2-Methyl-3-(1-methyl-1H-pyrazol-4-yl)-cyclopent-2-enone | 21 mg, 16% | CC=1C(CCC1C=1C=NN(C1)C)=O | C10H12N2O
